US06867204B2
A three neck flask was charge with tris(dibenzylideneacetone) dipalladium(0) (21.5 mg, 0.024 mmol, 2 mol % Pd), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (36.4 mg, 0.059 mmol, 5 mol %) and sodium-tert-butoxide (159 mg, 1.65 mmol) and flushed with nitrogen. A solution of 8-bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester (450 mmg, 1.18 mmol) and piperazine-1-carboxylic acid tert-butyl ester (263 mg, 1.41 mmol) in toluene (2 mL) was added. The mixture was heated to 95° C. and was stirred for 12 hours. The mixture was cooled to room temperature, taken up in ethyl acetate, filtered through celite and concentrated. The crude material was purified by flash chromatography on silica gel (eluting with hexane-ethyl acetate; 7:3, v/v) to give 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester a colorless oil (275 mg, 48%). MS: MH+=488.

reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.059 mmol, 36.4 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium-tert-butoxide | 1.65 mmol, 159 mg | CC(C)([O-])C.[Na+]
reactant | 8-bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester | 1.18 mmol | C(C1=CC=CC=C1)OC(=O)N1CCOC2=C1C=C(C=C2Br)Cl | C16H13BrClNO3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.41 mmol, 263 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.024 mmol, 21.5 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCOC2=C1C=C(C=C2N2CCN(CC2)C(=O)OC(C)(C)C)Cl | C25H30ClN3O5
